US06924400B2
(e) 6-Methyl-4′-propionyl-2′-propylbiphenyl-3-carbaldehyde
In a manner similar to that of Example 1(g), by reacting 2 g (6.2 mmol) of 4-propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate with 1.2 g (8 mmol) of 5-[1,3]dioxolan-2-yl-2-methylphenylboronic acid, and after purification by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (90/10), 1.42 g (78%) of product are obtained in the form of a pale yellow oil.

reactant | 4-propionyl-2-propylphenyl 1,1,1-trifluoromethanesulfonate | 6.2 mmol, 2 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(CC)=O)CCC)(F)F | C13H15F3O4S
reactant | 5-[1,3]dioxolan-2-yl-2-methylphenylboronic acid | 8 mmol, 1.2 g | O1C(OCC1)C=1C=CC(=C(C1)B(O)O)C | C10H13BO4
product | 6-Methyl-4′-propionyl-2′-propylbiphenyl-3-carbaldehyde | CC1=CC=C(C=C1C1=C(C=C(C=C1)C(CC)=O)CCC)C=O | C20H22O2
